US05412104
A suspension of 1-methyl-4-hydroxy-2(1H)-quinolinone (1.0 gm) in dimethyl formamide dimethyl acetal (5 ml) and methylene chloride (2.0) was refluxed for 1 hour. The resulting dark orange solution was evaporated under reduced pressure to give 1-methyl-3-dimethylaminomethylene-(1H)-quinolin-2,4-dione.

reactant | 1-methyl-4-hydroxy-2(1H)-quinolinone | 1.0 gm | CN1C(C=C(C2=CC=CC=C12)O)=O | C10H9NO2
solvent | dimethyl formamide dimethyl acetal | 5 ml | COC(N(C)C)OC | C5H13NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-dimethylaminomethylene-(1H)-quinolin-2,4-dione | CN1C(C(C(C2=CC=CC=C12)=O)=CN(C)C)=O | C13H14N2O2
